US05679797
D. (2S,3S,5S)-2-(N-(N-((2-isopropyl-4-thiazolyl)methoxycarbonyl)valinyl)amino)-1-phenyl-5-(N-((5-thiazolyl)methoxycarbonyl)amino)-6-(5-thiazolyl)-3-hydroxyhexane
Using the procedure of Example 1U but replacing N-((N-methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine with N-((2-isopropyl-4-thiazolyl)methoxycarbonyl)valine and replacing (2S,3S,5S)-5-amino-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane with (2S,3S,5S)-2-amino-1-phenyl-5-(N-((5-thiazolyl)methoxycarbonyl)amino)-6-(5-thiazolyl)-3-hydroxyhexane provided, after silica gel chromatography using 1% methanol in chloroform, 54 mg (66%) of the desired compound (Rf 0.6, 10% methanol in CH2Cl2). 1H NMR (DMSO-d6) δ 0.69 (d, 3H), 0.74 (d, 3H), 1.31 (d, 6H), 1.47 (m, 2H), 1.85 (m, 1H), 2.75 (m, 4H), 2.95 (m, 1H), 3.57 (m, 1H), 3.80 (m, 2H), 4.08 (m, 1H), 4.95 (d, 1H), 5.03 (s, 2H), 5.19 (s, 2H), 7.12-7.29 (m), 7.45 (s, 1H), 7.47 (s, 1H). Mass spectrum: (M+H)+ =715.

reactant | N-((2-isopropyl-4-thiazolyl)methoxycarbonyl)valine | C(C)(C)C=1SC=C(N1)COC(=O)N[C@@H](C(C)C)C(=O)O | C13H20N2O4S
reactant | (2S,3S,5S)-2-amino-1-phenyl-5-(N-((5-thiazolyl)methoxycarbonyl)amino)-6-(5-thiazolyl)-3-hydroxyhexane | N[C@@H](CC1=CC=CC=C1)[C@H](C[C@@H](CC1=CN=CS1)NC(=O)OCC1=CN=CS1)O | C20H24N4O3S2
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2S,3S,5S)-2-(N-(N-((2-isopropyl-4-thiazolyl)methoxycarbonyl)valinyl)amino)-1-phenyl-5-(N-((5-thiazolyl)methoxycarbonyl)amino)-6-(5-thiazolyl)-3-hydroxyhexane | 54 mg | C(C)(C)C=1SC=C(N1)COC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)[C@H](C[C@@H](CC1=CN=CS1)NC(=O)OCC1=CN=CS1)O | C33H42N6O6S3
